US08309598B2
Preparation of 4-(4H-benzo[d][1,3]oxathiin-2-yl)benzonitrile
Following the same procedure as outlined in Example 1 step b), 4-formylbenzonitrile (0.78 g, 5.95 mmol) and (2-mercaptophenyl)methanol (1 g, 7.14 mmol) in dichloromethane (30 ml) were treated with hydrogen chloride gas. After workup and chromatography, as in example 1 step b), the subtitle compound was obtained (1.12 g, 75%) as a white solid. 1H NMR (300 MHz, CDCl3, ppm) δ 5.10 (s, 2H); 6.15 (s, 1H); 7.04-7.21 (m, 4H); 7.59-7.68 (m, 4H); 13C NMR (75 MHz, CDCl3, ppm) δ 70.2; 81.7; 112.8; 118.6; 125.6; 126.1; 127.1; 127.6; 127.7; 129.9; 132.0; 132.6; 143.4; MS calculated for C15H11NOS+H 254 observed 254.

reactant | 4-formylbenzonitrile | 5.95 mmol, 0.78 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | (2-mercaptophenyl)methanol | 7.14 mmol, 1 g | SC1=C(C=CC=C1)CO | C7H8OS
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 4-(4H-benzo[d][1,3]oxathiin-2-yl)benzonitrile | S1C(OCC2=C1C=CC=C2)C2=CC=C(C#N)C=C2 | C15H11NOS
